US04886817
To a solution of 1.6 g of N-(3-pyridylmethyl)-ethylenediamine dissolved in 30 ml of tetrahydrofuran, 1.49 g of carbonyldiimidazole was added at 0° C. The mixture was stirred at 0° C. for 30 minutes, then at room temperature for 4 hours. The solvent was distilled off, and the residue was purified by silica gel column chromatorgraphy (solvent: chloroform-methanol=15:1) and recrystallized from a mixture of isopropanol and hexane to give 1.43 g of 1-(3-pyridylmethyl)-2-imidazolidinone.

reactant | N-(3-pyridylmethyl)-ethylenediamine | 1.6 g | N1=CC(=CC=C1)CNCCN | C8H13N3
reactant | carbonyldiimidazole | 1.49 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(3-pyridylmethyl)-2-imidazolidinone | 1.43 g | N1=CC(=CC=C1)CN1C(NCC1)=O | C9H11N3O
